Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Allergies/ADRs on File
 
Attending: ___.
 
Chief Complaint:
Diaphoresis 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ yo M with PMH of HTN, HLD, LVH, and intraparenchymal bleed 
from malignant hypertension in ___ here with diaphoresis.
Patient reports developing diaphoresis and lightheadedness while 
taking a shower this morning. He called EMS. He was given NTG 
once which resulted in improvement in his symptoms. He has never 
experienced symptoms like these before. Notably, patient has 
chronic chest and leg pain which is thought to be a residual 
effect of his CVA. Patient did not take his antihypertensives 
today.
En route, EMS obtained EKG that was remarkable for TWI in aVL, 
V5, and V6. These were stable from prior EKG in ___.
In the ED, initial vital signs were 97.8, 76, 161/96, 18, 100% 
RA. Labs were remarkable for Cr 1.3, troponin 0.02 -> 0.01, and 
a negative D-Dimer. CXR with left lower lobe opacity concerning 
for pneumonia. Atrius Cardiology was consulted. Given negative 
troponin and EKG consistent with prior, they recommended 
management of hypertension and admission to Medicine for 
treatment of pneumonia. Patient was given NTG x2 and 
levofloxacin for a possible pneumonia. He was admitted to 
Medicine for further management.
On the floor, reports no recent cough, fever, chills.
ROS: As per HPI 
 
Past Medical History:
- Hypertension
- Hyperlipidemia
- Pre-diabetes
- Left ventricular hypertrophy
- CKD stage 2
- Intraparenchymal hemorrhage from malignant hypertension in 
___
- Dejerine Roussy syndrome 
 
Social History:
___
Family History:
No family history of significant cardiac disease. 
 
Physical Exam:
PHYSICAL EXAM ON ADMISSION
============================
VS:
98.4 167/98 79 18 100RA
GEN: Well-appearing male in no distress
HEENT: Sclera anicteric, MMM, oropharynx clear
NECK: Supple, JVP not elevated
CARDIAC: RRR, nl S1/S2, no MRG
LUNGS: CTAB, no wheezes/rales/rhonchi
ABDOMEN: Soft, NTND, normoactive bowel sounds
EXTREMITIES: Warm, well-perfused, no cyanosis/clubbing/edema
SKIN: No concerning lesions
NEURO: AAOx3, CN II-XII intact, ___ strength, moving all four 
extremities
PULSES: Distal pulses palpable and symmetric 

PHYSICAL EXAM ON DISCHARGE
============================
VITALS: T 98.3 BP 117/58 HR 76 RR 18 100 RA
GEN: Well-appearing male in no distress
HEENT: NCAT, Sclera anicteric, MMM, oropharynx clear
NECK: Supple
CARDIAC: RRR, nl S1/S2, no MRG
LUNGS: CTAB, no wheezes/rales/rhonchi
ABDOMEN: Soft, NTND, normoactive bowel sounds
EXTREMITIES: Warm, well-perfused, no cyanosis/clubbing/edema
NEURO: AAOx3, CN II-XII intact, ___ hip flexors on R ___ triceps 
on R, otherwise ___ UE and ___ b/l, 
 
Pertinent Results:
=================
ADMISSION LABS
=================
___ 10:40AM BLOOD WBC-7.2 RBC-4.83 Hgb-12.9* Hct-40.6 
MCV-84 MCH-26.7 MCHC-31.8* RDW-14.1 RDWSD-43.3 Plt ___
___ 10:40AM BLOOD Neuts-79.5* Lymphs-14.2* Monos-5.3 
Eos-0.4* Baso-0.3 Im ___ AbsNeut-5.75 AbsLymp-1.03* 
AbsMono-0.38 AbsEos-0.03* AbsBaso-0.02
___ 10:40AM BLOOD Glucose-91 UreaN-16 Creat-1.3* Na-138 
K-4.5 Cl-104 HCO3-22 AnGap-17
___ 10:40AM BLOOD cTropnT-0.02*
___ 04:45PM BLOOD cTropnT-0.01
___ 03:12PM BLOOD D-Dimer-262
___ 10:26AM URINE Color-Yellow Appear-Clear Sp ___
___ 10:26AM URINE Blood-NEG Nitrite-NEG Protein-TR 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.0 Leuks-NEG
___ 10:26AM URINE RBC-1 WBC-1 Bacteri-NONE Yeast-NONE 
Epi-<1
___ 10:26AM URINE Mucous-RARE

=================
IMAGING/STUDIES
=================
ECGStudy Date of ___  8:51:36 AM
 
Sinus rhythm with sinus arrhythmia. Left ventricular hypertrophy 
with
secondary repolarization abnormalities. No previous tracing 
available for
comparison. 

ECGStudy Date of ___  4:57:13 ___
 
Sinus rhythm. Left ventricular hypertrophy with secondary 
repolarization
abnormalities.

ECGStudy Date of ___  5:13:10 ___
 
Sinus rhythm. Left ventricular hypertrophy with secondary 
repolarization
abnormalities. 

CHEST (PA & LAT) ___
Left lower lobe opacity, suspicious for pneumonia in the 
appropriate clinical setting.  No pneumothorax.

=================
DISCHARGE LABS
=================
___ 07:49AM BLOOD WBC-4.4 RBC-4.50* Hgb-12.0* Hct-37.5* 
MCV-83 MCH-26.7 MCHC-32.0 RDW-14.2 RDWSD-43.0 Plt ___
___ 07:49AM BLOOD Glucose-82 UreaN-19 Creat-1.4* Na-138 
K-4.4 Cl-103 HCO3-22 AnGap-17
___ 07:49AM BLOOD Calcium-9.6 Phos-3.___ yo M with PMH of HTN, HLD, LVH, and intraparenchymal bleed 
from malignant hypertension in ___ who presented with 
diaphoresis.

#Diaphoresis/Chronic chest pain
The patient presented with diaphoresis and lightheadedness prior 
to taking a shower on the morning of admission. He also endorsed 
some chest pressure that improved with nitroglycerin. The 
patient was ruled out for ACS with troponins .___->..01 and an 
EKG that was unchanged from previous, but notable for LVH with 
strain. A d-dimer was negative There was concern for possible 
pneumonia given the report on CXR of left lower opacity though 
the patient had no leukocytosis, fever, cough, shortness of 
breath to suggest pneumonia, and he was not continued on 
levofloxacin which was started in the ED. He continued to be 
afebrile and hemodynamically stable throughout, satting well on 
room air. His pain was likely chronic residual pain from his 
previous CVA.  He was clinically well and asymptomatic on 
discharge.

# Hypertension
Initial vitals in the ED were notable for BP of 161/96 in the 
setting of not taking home antihypertensives. The patient 
continued extensive home regimen including valsartan, 
amlodipine, clonidine, hydralazine, and spironolactone. His 
blood pressures downrended to 109/65 on discharge.

# Hyperlipidemia
Patient continued home atorvastatin.

# History of CVA complicated by chronic pain 
Patient continued Baclofen, Lyrica, gabapentin.

#CKD
Patient with Cr of 1.3 on admission, 1.4 on discharge. Per EMR 
recent baseline 1.2-1.3. Continue to trend as an outpatient.

Transitional Issues
=======================
[ ] Chem 7 at next PCP visit to trend creatinine
- Cr 1.4 on discharge
[ ] Consider cardiac stress as an outpatient
# CODE: Full (confirmed)
# CONTACT: Math Eyve Prevel ___ 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. HydrALAzine 100 mg PO TID 
2. Pregabalin 75 mg PO TID 
3. Amlodipine 5 mg PO DAILY 
4. Atorvastatin 20 mg PO QPM 
5. Spironolactone 50 mg PO DAILY 
6. CloniDINE 0.2 mg PO BID 
7. Baclofen 10 mg PO TID 
8. Gabapentin 600 mg PO BID 
9. Aspirin 81 mg PO DAILY 
10. Valsartan 320 mg PO DAILY 

 
Discharge Medications:
1. Amlodipine 5 mg PO DAILY 
2. Aspirin 81 mg PO DAILY 
3. Atorvastatin 20 mg PO QPM 
4. Baclofen 10 mg PO TID 
5. CloniDINE 0.2 mg PO BID 
6. Gabapentin 600 mg PO BID 
7. HydrALAzine 100 mg PO TID 
8. Pregabalin 75 mg PO TID 
9. Spironolactone 50 mg PO DAILY 
10. Valsartan 320 mg PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnoses
======================
Chronic pain post cerebrovascular accident
Diaphoresis

Secondary Diagnoses
======================
Hypertension
Hyperlipidemia
History of intracranial hemorrhage associated with hypertension 
complicated by Dejerine Roussy Syndrome
Chronic kidney disease
Left Ventricular Hypertrophy

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure caring for you during your stay at ___. You 
were admitted to the hospital for sweating and lightheadedness. 
There was no evidence that you were having any problems with 
your heart. There were no signs of an infection. Your chronic 
pain is from your prior stroke. We continued your home 
medication regimen without any changes.

You will need to follow up with your primary care doctor in 1 
week. Your medications are listed as below.

We wish you the best!
-Your ___ Care TEam
 
Followup Instructions:
___